US06831175B2
3-(benzyloxy)-5-bromo-2-chloropyridine
A solution of 3-(benzyloxy)-5-bromopyridine N-oxide (2.0 g, 7.1 mmol) in POCl3 (20 mL) was stirred at 100° C. for 7 hours, cooled to room temperature, concentrated, treated with ethyl acetate (50 mL), washed with brine, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 10% ethyl acetate/hexane to provide the desired product (1.0 g, 40%). MS (DCI/NH3) m/e 299 (M+H)+.

reactant | 3-(benzyloxy)-5-bromopyridine N-oxide | 7.1 mmol, 2.0 g | C(C1=CC=CC=C1)OC=1C=[N+](C=C(C1)Br)[O-] | C12H10BrNO2
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-(benzyloxy)-5-bromo-2-chloropyridine | 1.0 g, 40% | C(C1=CC=CC=C1)OC=1C(=NC=C(C1)Br)Cl | C12H9BrClNO
